US05504095
1. 2-(chloromethylsulfonylamino)Phenol
O-Aminophenol (43.6 g, 0.40 mol) was dissolved in tetrahydrofuran (200 ml). Chloromethanesulfonyl chloride (61.8 g, 0,415 mol) was slowly added to the solution at room temperature, and the resultant solution, was stirred for 30 minutes. Pyridine (45 ml) was added to the solution, and stirring was continued overnight. The reaction mixture was acidified to pH=1 with hydrochloric acid and extracted with ethyl acetate. The organic extracts were washed with sodium bicarbonate aq. and brine followed by drying over sodium sulfate. The solvent was removed by evaporation, and the residual oil was sitting at room temperature for 2 days to form crystals, which were collected by filtration to afford the titled product, 18.5 g.

reactant | O-Aminophenol | 0.40 mol, 43.6 g | NOC1=CC=CC=C1 | C6H7NO
reactant | Chloromethanesulfonyl chloride | 0,415 mol, 61.8 g | ClCS(=O)(=O)Cl | CH2Cl2O2S
reactant | Pyridine | 45 ml | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 2-(chloromethylsulfonylamino)Phenol | ClCS(=O)(=O)NC1=C(C=CC=C1)O | C7H8ClNO3S
